US08404861B2
Production of N-acetyl-N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide (Compound No. 1-125)
Sodium hydride (38 mg, 60%, 0.96 mmol) was suspended in tetrahydrofuran (10 ml), and a solution of N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide (300 mg, 0.64 mmol) in tetrahydrofuran (5 ml) was added dropwise. After stirring at room temperature for 30 min, a solution of acetyl chloride (75 mg, 0.96 mmol) in tetrahydrofuran (2 ml) was added, and the mixture was stirred for one day. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:3) to give the desired compound (90 mg).

reactant | Sodium hydride | 0.96 mmol, 38 mg | [H-].[Na+]
reactant | N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide | 0.64 mmol, 300 mg | C(C(C)C)C=1C=C(C=CC1C(C(F)(F)F)C(F)(F)F)NC(=O)C=1C(=NN(C1C)C)C | C20H23F6N3O
reactant | acetyl chloride | 0.96 mmol, 75 mg | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-acetyl-N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide | 90 mg, yield: 28% | C(C)(=O)N(C(=O)C=1C(=NN(C1C)C)C)C1=CC(=C(C=C1)C(C(F)(F)F)C(F)(F)F)CC(C)C | C22H25F6N3O2
